US05189027
The procedure of Example 1 was repeated except that 1.56 g (3.98 mmol) of 2-iodoadenosine was used as the starting compound and that the cyclohexylacetylene was replaced by 3-cyclopentylpropyne, whereby 1.05 g (2.8 mmol) of crystalline 2-(3-cyclopentyl-1-propynyl)adenosine was obtained (yield: 70.3%).

reactant | 2-iodoadenosine | 3.98 mmol, 1.56 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
reactant | cyclohexylacetylene | C1(CCCCC1)C#C | C8H12
reactant | 3-cyclopentylpropyne | C1(CCCC1)CC#C | C8H12
product | 2-(3-cyclopentyl-1-propynyl)adenosine | 2.8 mmol, 1.05 g, yield: 70.3% | C1(CCCC1)CC#CC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C18H23N5O4
